US05925661
A) N-(2-Bromo-5-isopropyl-4-nitrophenyl)-4-methylbenzenesulphonamide
A solution of 23.47 g of N-(4-nitrophenyl)-4-methylbenzenesulphonamide in 230 ml of THF is cooled to -30° C., 100 ml of a 2M solution of isopropylmagnesium chloride in ether is added and the mixture is left stirring for 30 minutes at -30° C. 10.3 ml of bromine are then added at -30° C., the mixture is left stirring for 15 minutes at this temperature and the temperature is then allowed to rise to 20° C. 55 ml of triethylamine are then added and the mixture is left stirring for 1 hour at RT. Water is added, the mixture is acidified to pH 3-4 by adding 10% HCl solution, the organic phase is separated after settling has taken place, the aqueous phase is extracted with ether and the combined organic phases are dried over Na2SO4. The organic phase is stirred in the presence of animal charcoal, filtered and concentrated under vacuum. The residue is taken up in EtOH and the crystallized product formed is drained. 11.6 g of the expected product are obtained, m.p.=132° C.

reactant | N-(4-nitrophenyl)-4-methylbenzenesulphonamide | 23.47 g | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C13H12N2O4S
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | bromine | 10.3 ml | BrBr | Br2
reactant | HCl | Cl | ClH
solvent | THF | 230 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
solvent | triethylamine | 55 ml | C(C)N(CC)CC | C6H15N
product | N-(2-Bromo-5-isopropyl-4-nitrophenyl)-4-methylbenzenesulphonamide | 11.6 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C | C16H17BrN2O4S
